US04558064
2-Azaspiro[4.5]decane-3-carboxylic acid
6.4 g of butyllithium (in the form of a hexane solution) were added to 16.7 g of butyliminomethylcyclohexane in 300 ml of anhydrous dimethoxyethane at -76° C. under protective gas (argon). 15 min. after completion of addition, 18 g of N-acetylchloroserine methyl ester in 100 ml of DME were added dropwise, with efficient cooling. The mixture was stirred for a further 1 hour at a low temperature, allowed to warm up and evaporated to a small volume in vacuo. The crude mixture was acidified with 200 ml of 2N HCl and heated to reflux for 45 min. The mixture was evaporated in vacuo, the residue was taken up in glacial acetic acid, 1 g of Pt/C (10% Pt) was added and hydrogenation was carried out under normal pressure. The mixture was filtered, evaporated and chromatographed over a silica gel column with the system chloroform/methanol/glacial acetic acid/water 25:15:2:2. The amino acid crystallized from the appropriate eluate after evaporation.

reactant | butyllithium | 6.4 g | C(CCC)[Li]
reactant | hexane | CCCCCC | C6H14
reactant | butyliminomethylcyclohexane | 16.7 g | C(CCC)N=CC1CCCCC1 | C11H21N
reactant | N-acetylchloroserine methyl ester | 18 g | COC([C@@H](N(C(C)=O)Cl)CO)=O | C6H10ClNO4
solvent | dimethoxyethane | 300 ml | C(OC)COC | C4H10O2
solvent | DME | 100 ml | COCCOC | C4H10O2
product | 2-Azaspiro[4.5]decane-3-carboxylic acid | C1NC(CC12CCCCC2)C(=O)O | C10H17NO2
